US04112095
Preparation of 6-(o-fluorophenyl)-1,2,4- triazolo-[4,3-b]pyridazine
A mixture of 5.0 g. of 3-chloro-6-(o-fluorophenyl)pyridazine and 2.88 g. of formylhydrazine in 75 ml. n-butanol is refluxed for 48 hrs. and worked up as in Example 35 to give 1.1 g. of product as cream colored crystals, m.p. 161°-163° C.

reactant | 3-chloro-6-(o-fluorophenyl)pyridazine | ClC=1N=NC(=CC1)C1=C(C=CC=C1)F | C10H6ClFN2
reactant | formylhydrazine | C(=O)NN | CH4N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(o-fluorophenyl)-1,2,4- triazolo-[4,3-b]pyridazine | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C=NN2 | C11H7FN4
